US05204333
To a stirred solution of diethyl 3,4-difluorophenylmalonate (13 g, 48 mmol) in dry tetrahydrofuran (100 ml) at 0° C. under a nitrogen atmosphere was added sodium hydride (1.5 g, 50 mmol) of 80% oil dispersion). The mixture was allowed to warm to room temperature and then heated to reflux for 1hour. To the cooled mixture was added 4-methoxybenzyl chloromethyl ether (9.5 g, 51 mmol ref. Synthesis, 1983, 762) and reflux was continued overnight. The cooled mixture was partitioned between water and diethyl ether, the organic layer was separated, dried over anhydrous magnesium sulphate and evaporated to leave diethyl 2-(3,4-difluorophenyl)-2(4-methoxybenzyloxymethyl)malonate as a yellow oil Nmr δ7.35 (1H,m), 7.2 (2H,d), 7.15-7.00 (2H,m), 6.85 (2H,d), 4.45 (2H,s), 4.20 (4H,q), 4.10 (2H,s), 3.80 (3H,s), 1.25 (6H,t).

reactant | diethyl 3,4-difluorophenylmalonate | 48 mmol, 13 g | FC=1C=C(C=CC1F)C(C(=O)OCC)C(=O)OCC | C13H14F2O4
reactant | sodium hydride | 50 mmol, 1.5 g | [H-].[Na+]
reactant | 4-methoxybenzyl chloromethyl ether | 51 mmol, 9.5 g | ClCOCC1=CC=C(C=C1)OC | C9H11ClO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | diethyl 2-(3,4-difluorophenyl)-2(4-methoxybenzyloxymethyl)malonate | FC=1C=C(C=CC1F)C(C(=O)OCC)(C(=O)OCC)COCC1=CC=C(C=C1)OC | C22H24F2O6
